US05151420
6-[4-(2,4-Dihydroxyphenyl)methyleneaminophenyl]-4,5-dihydropyridazin-3(2H)one
A solution containing 0.42 g (0.003 mol) of 2,4-dihydroxybenzaldehyde, 0.57 g (0.003 mol) of 6-(4-aminophenyl)-4,5-dihydropyridazin-3(2H)one and 0.05 ml of acetic acid in a mixture of 40 ml of ethanol and 20 ml of DMF was refluxed for 4 h. After cooling the product was filtered and washed with ethanol. Yield 0.80 g (85%), m.p. 350° C. (decomp).

reactant | 2,4-dihydroxybenzaldehyde | 0.003 mol, 0.42 g | OC1=C(C=O)C=CC(=C1)O | C7H6O3
reactant | 6-(4-aminophenyl)-4,5-dihydropyridazin-3(2H)one | 0.003 mol, 0.57 g | NC1=CC=C(C=C1)C=1CCC(NN1)=O | C10H11N3O
reactant | acetic acid | 0.05 ml | C(C)(=O)O | C2H4O2
solvent | ethanol | 40 ml | C(C)O | C2H6O
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
product | 6-[4-(2,4-Dihydroxyphenyl)methyleneaminophenyl]-4,5-dihydropyridazin-3(2H)one | OC1=C(C=CC(=C1)O)C=NC1=CC=C(C=C1)C=1CCC(NN1)=O | C17H15N3O3
